US05378718
2-(3,5-Dimethoxycarbonyl-2,6-dimethyl-1,4-dihydro-pyridin-4-yl)phenoxyacetic Acid
A solution of 5 g of 2-formylphenoxyacetic acid and 6.4 g of methyl 3-aminocrotonate in methanol was refluxed for 24 hours and evaporated. The residue was dissolved in a solution of sodium carbonate in water. This solution was washed twice with ethyl acetate and acidified to pH 2 with dilute hydrochloric acid, after which the solution was again extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and evaporated. The residue was crystallized from ethyl acetate/petroleum ether 60-80.

reactant | 2-formylphenoxyacetic acid | 5 g | C(=O)C1=C(OCC(=O)O)C=CC=C1 | C9H8O4
reactant | methyl 3-aminocrotonate | 6.4 g | N\C(=C/C(=O)OC)\C | C5H9NO2
solvent | methanol | CO | CH4O
product | 2-(3,5-Dimethoxycarbonyl-2,6-dimethyl-1,4-dihydro-pyridin-4-yl)phenoxyacetic Acid | COC(=O)C1=C(NC(=C(C1C1=C(OCC(=O)O)C=CC=C1)C(=O)OC)C)C | C19H21NO7
